US04529732
N-Ethoxycarbonyl-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinone
A mixture of 369 mg (0.77 mmole) of N-ethoxycarbonyl-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinone and 414 mg of 5% palladium on carbon (50% wet) in 5 ml ethanol was stirred under 1 atmosphere of hydrogen at 25° C. until the hydrogen uptake is complete (approximately 3 hours). The reaction is filtered through a filter aid, washing with ethanol and the filtrate evaporated in vacuo. The residual crude oil is purified via column chromatography on 22 g of silica gel eluting in 4 ml fractions with 15% ethyl ether in dichloromethane to yield (fractions 28-42) 174 mg (57%) of the title compound as an oil.

reactant | N-ethoxycarbonyl-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinone | 0.77 mmole, 369 mg | C(C)OC(=O)N1C(CC(CC1)=O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C30H41NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 414 mg | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-Ethoxycarbonyl-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinone | 174 mg, 57% | C(C)OC(=O)N1C(CC(CC1)=O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)O | C23H35NO4
